US06693123B2
[4-Nitro-2-(2-methylphenyl)benzoyl]methionine methyl ester was reduced to a corresponding amine by stannous chloride in ethyl acetate at 78° C. The free amine was treated with methylene chloride and 3 N HCl in ether to give [4-amino-2-(2-methylphenyl)benzoyl]methionine methyl ester hydrochloride (85% yield); [α]25D=−28.3 (c=1.0, methanol); 1H NMR (CD3OD) δ 7.74 (d, J=8.2 Hz, 1H), 7.47 (d, J=8.2 Hz, 1H), 7.23-7.30 (m, 5H), 4.47 (m, 1H), 3.69 (s, 3H), 2.06-2.18 (m, 4H), 1.99 (s, 3H), 1.97 (m, 2H), 1.74 (m, 1H); 13C NMR (CD3OD) δ 173.3, 170.8, 143.3, 139.7, 138.1, 137.2, 133.5, 131.49 130.8, 130.6, 129.6, 128.8, 126.2, 123.1, 66.9, 52.9, 31.5, 30.8, 20.4, 15.1.

reactant | [4-Nitro-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=C(C=CC=C1)C)=O)CCSC)=O | C20H22N2O5S
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | HCl | 3 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | [4-amino-2-(2-methylphenyl)benzoyl]methionine methyl ester hydrochloride | 85% yield | Cl.COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=C(C=CC=C1)C)=O)CCSC)=O | InChI=1S/C20H24N2O3S.ClH/c1-13-6-4-5-7-15(13)17-12-14(21)8-9-16(17)19(23)22-18(10-11-26-3)20(24)25-2;/h4-9,12,18H,10-11,21H2,1-3H3,(H,22,23);1H/t18-;/m0./s1
